US04698348
Using the method of Example 26, 20.4 g (0.063 mole) of 4-[2-(4-methoxyphenyl)ethylamino]-3-nitroquinoline was reduced by hydrogen in 300 ml of toluene with 5% platinum on charcoal. The solvent was then evaporated to provide a residue of 3-amino-4-[2-(4-methoxyphenyl)ethylamino]quinoline. To this residue was added 28 g (0.19 mole) of triethyl orthoformate and the mixture was heated at about 125° C. for two hours. To this mixture was added about 100 ml of aqueous hydrochloric acid and the mixture was heated on a steam bath for thirty minutes. After cooling, the precipitate was separated by filtration, washed sequentially with isopropanol and diethyl ether, and dried. To the solid was added water and ammonium hydroxide, after which the mixture was cooled and the solid was separated by filtration. A portion (3.5 g) of the solid was dissolved in isopropanol, and acidified with hydrochloric acid. The solid was separated by filtration, washed with isopropanol and dried to provide 1-[2-(4-methoxyphenyl)ethyl]-1H-imidazo[4,5-c]quinoline hydrochloride hydrate, m.p. 209°-213° C. Analysis: Calculated for C19H17N3O.HCl.1/3H2O: %C, 66.0; %H, 5.4; %N, 12.2; Found: %C, 66.1; %H, 5.3; %N, 12.3.

reactant | 4-[2-(4-methoxyphenyl)ethylamino]-3-nitroquinoline | 0.063 mole, 20.4 g | COC1=CC=C(C=C1)CCNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C18H17N3O3
reactant | hydrogen | [H][H] | H2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on charcoal | [Pt] | Pt
product | 3-amino-4-[2-(4-methoxyphenyl)ethylamino]quinoline | NC=1C=NC2=CC=CC=C2C1NCCC1=CC=C(C=C1)OC | C18H19N3O
